.SUBCKT ReLU IN OUT

Ve        Ve       0    3
Vcc-      Vcc-     0    -5
Vcc+      Vcc+     0    5

RReLU_l1    IN         ReLU_in  40
XUReLU		0          ReLU_in  Vcc+ Vcc- ReLU_out MAX4223
DReLU_fb	ReLU_out   ReLU_in  D_BAV74_1
DReLU_o		ReLU_inter ReLU_out D_BAV74_1
RReLU_fb	ReLU_inter ReLU_in  40

RReLU_l2     ReLU_inter ReLU_inv_in 1000
XUReLU_inv   0          ReLU_inv_in Vcc+ Vcc- OUT Ve OPA684_0
RReLU_inv_fb OUT        ReLU_inv_in 1000

.MODEL D_BAV74_1 D( IS=2.073F N=1 BV=50 IBV=100N RS=1.336
+      CJO=2P VJ=750M M=330M FC=500M TT=5.771N
+      EG=1.11 XTI=3 KF=0 AF=1 )

.ENDS ReLU

.SUBCKT HardTanh IN OUT PARAMS: V_clip=-500m

Vb	      Vbias    0   {V_clip}
Ve        Ve       0    3
Vcc-      Vcc-     0    -5
Vcc+      Vcc+     0    5

RReLU_l1     	 IN         ReLU_in  40
XUReLU		     0          ReLU_in  Vcc+ Vcc- ReLU_out MAX4223
DReLU_fb	     ReLU_out   ReLU_in  D_BAV74_1
DReLU_o		     ReLU_inter ReLU_out D_BAV74_1
RReLU_fb	     ReLU_inter ReLU_in  40

RReLU_l2     ReLU_inter ReLU_inv_in 1000
XUReLU_inv   0          ReLU_inv_in Vcc+ Vcc- OUT_ReLU Ve OPA684_0
RReLU_inv_fb OUT_ReLU   ReLU_inv_in 1000
Rclip	     OUT_ReLU   OUT         1000
Dclip	     OUT Vbias  D_BAV74_1
Dclip2       0  OUT     D_BAV74_1

.MODEL D_BAV74_1 D( IS=2.073F N=1 BV=50 IBV=100N RS=1.336
+      CJO=2P VJ=750M M=330M FC=500M TT=5.771N
+      EG=1.11 XTI=3 KF=0 AF=1 )
.ENDS HardTanh

.SUBCKT OPA684_0  + -  V+ V- OUT DISA
C_C8         0 DISA  1P  
R_RP2        2NDPOLE 0  1K
Q_Q1         12 13 13 PNP8 .25
G_G1         11 0 POLY(1) 10 0 -2.468230611E-06 1.370624256E-06 0 0
D_D1         L 10 DX 1
D_D2         10 H DX 1
D_D4         37 2NDPOLE DX 1
R_R1         DISA 10  5.625K  
R_R3         0 13  1436895674  
Q_Q3         17 17 + PNP8 .375 
Q_Q2         16 16 + NPN8 .375
X_F1         13 14 15 16 OPA684_F1
R_R7         V- 24  1000  
C_C4         0 V-  1P  
R_R5         V- 18  3000  
G_G2         0 2NDPOLE ZO 0 .001
R_R9         V- 29  1K  
Q_Q4         21 16 2 NPN8 .375
X_F3         19 20 25 26 OPA684_F3
R_R8         25 V+  1K  
R_R6         19 V+  1000  
R_R4         15 V+  3000  
C_C7         V+ 0  1P  
R_R2         12 V+  1160  
Q_Q13        V- 41 OUT PNP8 9
Q_Q12        V+ 39 OUT NPN8 9
Q_Q5         22 17 2 PNP8 .375
R_R3A        2 2A  72
R_R11        V- 35  100
Q_Q8         32 26 2A NPN8 .25
R_R10         30 V+  100  
Q_Q6         22 22 23 NPN8 .125
Q_Q7         21 21 20 PNP8 .125
Q_Q7A         28 27 26 PNP8 .25
Q_Q6A         26 27 28 NPN8 .25
Q_Q10A         40 40 39 PNP8 4
Q_Q11A         40 40 41 NPN8 4
Q_Q10         32 32 31 PNP8 .25
X_F2    14 11 17 18 OPA684_F2 
E_E3         38 39 POLY(2) 0 2NDPOLE  V+ V- -781.98M 1 0.5
E_E4         41 42 POLY(2) 2NDPOLE 0  V+ V- -789.07M 1 0.5
R_RZ         0 ZO  495K  
Q_Q11         33 33 34 NPN8 .25
Q_Q9         33 28 2A PNP8 .25
X_F4    23 24 28 29 OPA684_F4 
C_CP2         0 2NDPOLE  .1F  
R_R12         38 V+  190  
R_R13         V- 42  190  
C_C8B         0 +  1.5P  
E_E2         36 0 POLY(1) V+ V- -1.55 .5 0 0
E_E1         37 0 POLY(1) V- V+ 1.15 .5 0 0
V_V2         H 0 2.616
V_V1         L 0 2.2125
D_U7         43 0 DN1 .25
D_U8         0 44 DN1 
I_I22         44 43 DC 5.9UA  
G_G10         + 0 POLY(2) 43 0 44 0 0 .95M .95M
D_D10         0 46 DN3 .25
D_D9         45 0 DN3 .25
G_G11         - 0 POLY(2) 45 0 46 0 0 1.79M 1.79M
X_F5    30 31 V+ ZO OPA684_F5 
X_F6    34 35 ZO V- OPA684_F6 
D_D3         2NDPOLE 36 DX 1
C_CZ         0 ZO  1.55P  
L_L4         2A -  59NH  
C_C9         0 OUT  1.8P  
I_I24         46 45 DC 4.55UA   
* DX D MODEL
* UPDATED USING MODEL EDITOR RELEASE 9.2.1 ON 02/26/02 AT 11:51
* THE MODEL EDITOR IS A PSPICE PRODUCT.
.MODEL DX D
+ IS=1.0000E-15  
*
*MODEL DN1 IS FOR MACRO MODELS
*CREATED BY REA SCHMID 9/23/01
.MODEL DN1 D( IS=.1F AF=1.0 KF=29.2E-17) 
*
*MODEL DN3 USED FOR MACRO MODELS
*CREATED BY REA SCHMID 9/23/01
.MODEL DN3 D( IS=.1F AF=1.0 KF=39.0E-17) 
*
.MODEL D1 D(
+EG=0.831 CJO=2.32E-16 RS=12.0 IS=3.85E-16
+N=1.033  XTI=2.0 VJ=0.75 M=0.33)
*
.MODEL PNP8 PNP
+ IS = 7.999E-18 BF = 1.418E+02 NF = 1.000E+00 VAF= 4.158E+01
+ IKF= 1.085E-01 ISE= 2.233E-15 NE = 1.505E+00 BR = 3.252E+01
+ NR = 1.050E+00 VAR= 1.093E+00 IKR= 5.000E-05 ISC= 6.621E-16
+ NC = 1.150E+00 RB = 6.246E+01 IRB= 0.000E+00 RBM= 2.240E+00
+ RE = 2.537E+00 RC = 1.260E+02 CJE= 9.502E-14 VJE= 7.320E-01
+ MJE= 4.930E-01 TF = 1.303E-11 XTF= 3.500E+01 VTF= 3.259E+00
+ ITF= 2.639E-01 PTF= 0.000E+00 CJC= 1.080E-13 VJC= 7.743E-01
+ MJC= 5.000E-01 XCJC=8.504E-02 TR = 1.500E-10 CJS= 1.290E-13
+ VJS= 9.058E-01 MJS= 4.931E-01 XTB= 1.732E+00 EG = 1.120E+00
+ XTI= 2.000E+00 KF = 3.500E-16 AF = 1.000E+00 FC = 8.500E-01
*
.MODEL NPN8 NPN
+ IS = 7.604E-18 BF = 1.570E+02 NF = 1.000E+00 VAF= 7.871E+01
+ IKF= 3.975E-02 ISE= 3.219E-14 NE = 2.000E+00 BR = 7.614E-01
+ NR = 1.000E+00 VAR= 1.452E+00 IKR= 8.172E-02 ISC= 7.618E-21
+ NC = 1.847E+00 RB = 1.060E+02 IRB= 0.000E+00 RBM= 2.400E+00
+ RE = 2.520E+00 RC = 1.270E+02 CJE= 1.120E-13 VJE= 7.591E-01
+ MJE= 5.406E-01 TF = 1.213E-11 XTF= 2.049E+00 VTF= 1.813E+00
+ ITF= 4.293E-02 PTF= 0.000E+00 CJC= 8.208E-14 VJC= 6.666E-01
+ MJC= 4.509E-01 XCJC=8.450E-02 TR = 4.000E-11 CJS= 1.160E-13
+ VJS= 5.286E-01 MJS= 4.389E-01 XTB= 1.022E+00 EG = 1.120E+00
+ XTI= 1.780E+00 KF = 3.500E-16 AF = 1.000E+00 FC = 8.273E-01
.ENDS    OPA684_0

.subckt OPA684_F1 1 2 3 4  
F_F1         3 4 VF_F1 67.332
VF_F1         1 2 0V
.ends OPA684_F1
.subckt OPA684_F3 1 2 3 4  
F_F3         3 4 VF_F3 .9818365
VF_F3         1 2 0V
.ends OPA684_F3
.subckt OPA684_F5 1 2 3 4  
F_F5         3 4 VF_F5 1.0461389
VF_F5         1 2 0V
.ends OPA684_F5
.subckt OPA684_F2 1 2 3 4  
F_F2         3 4 VF_F2 71.315
VF_F2         1 2 0V
.ends OPA684_F2
.subckt OPA684_F4 1 2 3 4  
F_F4         3 4 VF_F4 .9119088
VF_F4         1 2 0V
.ends OPA684_F4
.subckt OPA684_F6 1 2 3 4  
F_F6         3 4 VF_F6 1.2797389
VF_F6         1 2 0V
.ends OPA684_F6

.SUBCKT  MAX4223    1   2  99  50  40
ISUPP 99 0 3.73MA
ISUPPN 50 0 -1.73MA
*** INPUT STAGE
I1 99  5 330U
I2  4 50 330U
*was 430ua
Q1  50  3 5 QPN
Q2  99  3 4 QNN 
R1   5 6 633
C1   6 99 .35P
R2  4  7 633
C2   7 50 .35P
R3 99  8 633
V1  99 10 .3
RE1 10 30 130
D1  30  8 DX
R4 50  9 633
V2  11 50 .3
RE2 11 31 150
D2   9 31 DX
Q3   8  6 2 QNI
Q4   9  7 2 QPI
R6  1 99 20meg
R7  1 50 20meg
IB1 1 99 3.5UA
IB2 99  2 3.5UA
*was 3.5ua
VOS 3 1 0V
CIN1 1  0 .4P
CIN2 2  0 .4P
*
**************SECOND STAGE**************
*
********************Isup  99 50 4.47M
R8  99 49 1meg
R9  49 50 1meg
V3  99 16 1.755
*pos swig
D3  15 16 DX
D4  17 15 DX
V4  17 50 1.755
*neg swing
EH  99 98 99 49 1
G1  98 15 POLY(2) 99 8 50 9 0 1.58E-3 1.58E-3
R5  98 15 2.372MEG
*** ***********************  1st pole here with r5, and c3
C3 98 15 .176P 
***************POLE STAGE*************** 
*
*Fp=250MHz
G2  98 20 15 49 1E-3
R14 98 20 1K
*C4  98 20 .692P
C4 98 20 .5P
*
***************POLE STAGE*************** 
*
*Fp=500 MHz
G3  98 21 20 49 1E-3
R15 98 21 1K
*C5  98 21 .03P
*
***************POLE STAGE*************** 
*
*Fp=250 MHz
G4  98 22 21 49 1E-3
R16 98 22 1K
*C6  98 22 .346P
*
***************POLE STAGE*************** 
*
*Fp=250 MHz
G5  98 23 22 49 1E-3
R17 98 23 1K
*C7  98 23 .246P
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 35 VA8 1
D7  36 35 DX
VA7 99 36 0
D8  35 99 DX
E1  99 37 99 23 1
VA8 37 38 0
R35 38 40 12
V5  33 40 7V
D5  23 33 DX
V6  40 34 7V
D6  34 23 DX
CF1 40  2 1.8P
*** was 2.1pf
*
***************MODELS USED**************
*
.MODEL QNI NPN(IS=1E-14 BF=10E4 VAF=15 KF=6.7E-14)
.MODEL QPI PNP(IS=1E-14 BF=10E4 VAF=15 KF=6.7E-14)
.MODEL QNN NPN(IS=1E-14 BF=10E4 VAF=15 KF=4.13E-13)
.MODEL QPN PNP(IS=1E-14 BF=10E4 VAF=15 KF=4.13E-13)
.MODEL DX  D(IS=1E-15)
.MODEL DY  D(IS=1E-17)
.MODEL DN  D(KF=1.667E-9 AF=1 XTI=0 EG=.3)
*
.ENDS MAX4223


